US05512537
Preparation of 2-(3'-trifluoromethoxy benzoyl)-1-methylimidazole (Compound 35 herein)
In a flask was placed 1.0 g (12.2 mmol) 1-methylimidazole. Then, 5.1 ml (12.8 mmol) n-butyllithium was added dropwise and the mixture was stirred for 30 minutes. Then, 2.7 g (12.2 mmol) 3-trifluoromethoxybenzoyl chloride was added dropwise. The contents were mixed for 2 hours at -78° C., then allowed to warm to room temperature for an additional 2 hours. The mixture was quenched with water. The product was extracted with ether, dried and purified by flash chromatography (5-10% ethyl acetate/hexanes, silica gel) and was identified as the desired product by spectroscopic analyses.

reactant | 1-methylimidazole | 12.2 mmol, 1.0 g | CN1C=NC=C1 | C4H6N2
reactant | n-butyllithium | 12.8 mmol, 5.1 ml | C(CCC)[Li]
reactant | 3-trifluoromethoxybenzoyl chloride | 12.2 mmol, 2.7 g | FC(OC=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O2
product | 2-(3'-trifluoromethoxy benzoyl)-1-methylimidazole | FC(OC=1C=C(C(=O)C=2N(C=CN2)C)C=CC1)(F)F | C12H9F3N2O2
